US09428456B2
1-(4-Amino-pyrimidin-2-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide BB-11
A solution of 2-chloromethyl-pyrimidin-4-ylamine (Imperial Chemical Industries PLC Patent: U.S. Pat. No. 4,447,441 A1, 1984; 300 mg, 2.1 mmol) in methanol (25 mL) is treated with piperidine-4-carboxylic acid tert-butylamide (404 mg, 2.19 mmol) and TEA (0.872 mL, 6.27 mmol). The resulting mixture is heated at reflux overnight. DCM (25 mL) and water (25 mL) are added followed by NaOH 1M to adjust at pH 10. The organic phase is separated. The aqueous phase is extracted with DCM (25 mL). The combined organic phases are dried over MgSO4, filtered and evaporated. Evaporation of the solvent yields the crude product (0.57 g, 94%) as a brownish solid; LC-MS A: tR=0.40 min; [M+H]+=292.14.

reactant | 2-chloromethyl-pyrimidin-4-ylamine | ClCC1=NC=CC(=N1)N | C5H6ClN3
reactant | piperidine-4-carboxylic acid tert-butylamide | 2.19 mmol, 404 mg | C(C)(C)(C)NC(=O)C1CCNCC1 | C10H20N2O
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 1-(4-Amino-pyrimidin-2-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide | 0.57 g, 94% | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=NC=CC(=N1)N | C15H25N5O
